US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-acetyl-3-(2,6-dimethylanilino)propionic acid and ethyl 4-(2,6-diethylanilino)butyrate and suitable processing produces ethyl N-[N-acetyl-3-(2,6-dimethylanilino)propionyl]-4-(2,6-diethylanilino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-acetyl-3-(2,6-dimethylanilino)propionyl]-4-(2,6-diethylanilino)butyric acid (M.P. 110° to 111°).

reactant | N-acetyl-3-(2,6-dimethylanilino)propionic acid | C(C)(=O)N(C1=C(C=CC=C1C)C)CCC(=O)O | C13H17NO3
reactant | ethyl 4-(2,6-diethylanilino)butyrate | C(C)C1=C(NCCCC(=O)OCC)C(=CC=C1)CC | C16H25NO2
product | ethyl N-[N-acetyl-3-(2,6-dimethylanilino)propionyl]-4-(2,6-diethylanilino)butyrate | C(C)(=O)N(C1=C(C=CC=C1C)C)CCC(=O)N(C1=C(C=CC=C1CC)CC)CCCC(=O)OCC | C29H40N2O4
